US07691850B2
c) 6-({[((3S)-1-{2-[3-chloro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]amino}methyl)-2H-pyrido[3,2-b][1,4]thiazin-3(4H)-one
To a stirred solution of [((3S)-1-{2-[3-Chloro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]amine (100 mg, 0.31 mmol) in dry CH2Cl2 (5 mL) and dry EtOH (5 mL) at RT was added 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxaldehyde (67 mg, 0.34 mmol) along with a small amount of Na2SO4 and NaHCO3. After 24 h at RT, NaBH4 (12 mg, 0.32 mmol) was added. After 2 h, silica gel (5 g) was added to the reaction solution and the suspension was concentrated under vacuum to a dry solid. Purification on silica gel afforded the title compound as a light yellow solid (15 mg, 9.4%): LC/MS (ES) m/e 499/501 (M+H)+; 1H NMR (CD3OD, 400 MHz) δ 8.78 (s, 1H), 8.25 (d, J=9.1 Hz, 1H), 7.83 (d, J=7.8 Hz, 1H), 7.28 (d, J=9.1 Hz, 1H), 7.12 (d, J=7.8 Hz, 1H), 4.35 (s, 2H), 4.1 (s, 3H), 3.9 (m, 4H), 3.66 (s, 4H), 3.5 (m, 4H), 3.3 (m, 2H), 2.9-3.0 (m, 1H), 2.2-2.3 (m, 1H), 1.95-2.05 (m, 1H).

reactant | [((3S)-1-{2-[3-Chloro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]amine | 0.31 mmol, 100 mg | ClC=1C=NC2=CC=C(N=C2C1CCN1C[C@@H](CC1)CN)OC | C16H21ClN4O
reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxaldehyde | 0.34 mmol, 67 mg | O=C1NC2=C(SC1)C=CC(=N2)C=O | C8H6N2O2S
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | NaBH4 | 0.32 mmol, 12 mg | [BH4-].[Na+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | EtOH | 5 mL | CCO | C2H6O
product | 6-({[((3S)-1-{2-[3-chloro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]amino}methyl)-2H-pyrido[3,2-b][1,4]thiazin-3(4H)-one | 15 mg, 9.4% | ClC=1C=NC2=CC=C(N=C2C1CCN1C[C@@H](CC1)CNCC=1C=CC=2SCC(NC2N1)=O)OC | C24H27ClN6O2S
